US08729063B2
Ethyl 2-(Fluoromethyl)acrylate.
To a solution of ethyl 2-(hydroxymethyl)acrylate (5 g, 38 mmol) in 50 mL of methylene chloride was added DAST (6.0 mL, 46.1 mmol) at −78° C. The reaction mixture was stirred at −78° C. for 1 h, then warmed up to room temperature and continuously stirred overnight. 20 mL of saturated NaHCO3 aqueous solution and 20 mL of ethyl acetate were added to quench the reaction. The organic layer was separated, and the aqueous layer was extracted twice with EtOAc (20 ml×2). The combined organic extracts were dried over MgSO4 and evaporated to give an oil residue (2.8 g, yield: 56%). MS (m/z): 131 (M−1-1)+.

reactant | ethyl 2-(hydroxymethyl)acrylate | 38 mmol, 5 g | OCC(C(=O)OCC)=C | C6H10O3
reactant | DAST | 46.1 mmol, 6.0 mL | CCN(CC)S(F)(F)F | C4H10F3NS
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 2-(Fluoromethyl)acrylate | 2.8 g, yield: 56% | FCC(C(=O)OCC)=C | C6H9FO2
